US06469042B1
Preparation of 2-bromo-4-chlorobenzenethiol
A solution of 2-bromo-4-chlorobenzene disulfide (3.8 g, 8.5 mmol) in THF (30 mL) was treated with NaBH4 (0.83 g, 22.0 mmol). The mixture was refluxed for a while and treated with MeOH (2 mL); heating was resumed for 0.5 hours. Mixture was cooled to 23° C., acidified with HCl (3N) and extracted with Et2O. The Et2O extracts were dried over MgSO4, filtered, and the filtrate was concentrated in vacuo to afford the title compound which was used without further purification.

reactant | 2-bromo-4-chlorobenzene disulfide | 8.5 mmol, 3.8 g | BrC12C(C=CC3(C1S3)Cl)S2 | C6H4BrClS2
reactant | NaBH4 | 22.0 mmol, 0.83 g | [BH4-].[Na+]
reactant | MeOH | 2 mL | CO | CH4O
reactant | HCl | 3N | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-bromo-4-chlorobenzenethiol | BrC1=C(C=CC(=C1)Cl)S | C6H4BrClS
